US09315490B2
1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-N-(2-hydroxy-2-methylpropyl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamide
HATU coupling of 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid with 2-methyl-1-(methylamino)propan-2-ol. White solid. Yield: 110 mg

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)S(=O)C | C20H14FN3O3S
reactant | 2-methyl-1-(methylamino)propan-2-ol | CC(CNC)(C)O | C5H13NO
product | 1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-N-(2-hydroxy-2-methylpropyl)-N-methyl-3-(methylsulfinyl)-1H-indole-6-carboxamide | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N(C)CC(C)(C)O)S(=O)C | C25H25FN4O3S
